### PR TITLE
[Merged by Bors] - feat(RingTheory): Grassmannian functor

### PR DESCRIPTION
**Pull request by mpenciak**
This PR shows that the association `A → G(k, (A ⊗[R] M); A)` for an `R`-algebra `A` and `R`-module `M` forms a functor.

(AI disclosure: an early version of this PR was prepared with the help of Claude)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Grassmannian.lean [hunk 1]
```diff
@@ -80,6 +84,151 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+  induction x using TensorProduct.induction_on with
+  | zero => simp only [map_zero]
+  | tmul b y =>
+    induction y using TensorProduct.induction_on with
+    | zero => simp
+    | tmul a m =>
+      simp only [cancelBaseChange_tmul, lid_tmul, smul_tmul', smul_eq_mul, mul_comm]
+    | add x y hx hy =>
+      simp only [tmul_add, map_add, lid_tmul, hx, hy]
+  | add x y hx hy => simp [hx, hy]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Grassmannian.lean]: This does not belong here, but rather where cancelBaseChange is defined.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 2]
```diff
@@ -80,6 +84,151 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+  intro y
+  induction y using TensorProduct.induction_on with
+  | zero => exact ⟨0, map_zero _⟩
+  | tmul b q =>
+    obtain ⟨a_m, rfl⟩ := Submodule.Quotient.mk_surjective N.toSubmodule q
+    exact ⟨(cancelBaseChange R A B B M) (b ⊗ₜ[A] a_m), by simp⟩
+  | add x y hx hy =>
+    obtain ⟨x', hx'⟩ := hx
+    obtain ⟨y', hy'⟩ := hy
+    exact ⟨x' + y', by rw [map_add, hx', hy']⟩
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Grassmannian.lean]:
```suggestion
  apply
    ((cancelBaseChange R A B B M).symm.surjective_comp (LinearMap.baseChange B N.mkQ)).mpr
  rw [LinearMap.baseChange_eq_ltensor]
  exact LinearMap.lTensor_surjective _ <| Submodule.mkQ_surjective N.toSubmodule
```

File: Mathlib/RingTheory/Grassmannian.lean [hunk 3]
```diff
@@ -80,6 +84,151 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+      simpa using congrArg (fun g => g p) hEquiv
+    have h2 := Module.rankAtStalk_baseChange (R:=A)
+      (M:= (A ⊗[R] M ⧸ N.toSubmodule)) (S:=B) (p:=p)
+    calc
+      rankAtStalk (R:=B) (B ⊗[R] M ⧸ f.ker) p
+          = rankAtStalk (R:=B) (B ⊗[A] ((A ⊗[R] M) ⧸ N.toSubmodule)) p := h1
+      _ = rankAtStalk (R:=A) ((A ⊗[R] M ⧸ N.toSubmodule))
+        (PrimeSpectrum.comap (algebraMap A B) p) := by
+        simpa using h2
+      _ = k := N.rankAtStalk_eq _
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Grassmannian.lean]:
```suggestion
def map (N : G(k, (A ⊗[R] M); A)) : G(k, (B ⊗[R] M); B) :=
  letI f := (Submodule.mkQ N.toSubmodule).baseChange B ∘ₗ
    (cancelBaseChange R A B B M).symm.toLinearMap
  haveI equiv := f.quotKerEquivOfSurjective (baseChange_mkQ_surjective A B N)
  { toSubmodule := f.ker
    finite_quotient := Module.Finite.equiv equiv.symm
    projective_quotient := Module.Projective.of_equiv equiv.symm
    rankAtStalk_eq p := by
      calc
        _ = rankAtStalk (R := B) (B ⊗[A] ((A ⊗[R] M) ⧸ N.toSubmodule)) p := by
          simpa using congrArg (fun g => g p) <| Module.rankAtStalk_eq_of_equiv equiv
        _ = rankAtStalk (R := A) (A ⊗[R] M ⧸ N.toSubmodule)
            (PrimeSpectrum.comap (algebraMap A B) p) := by
          simpa using Module.rankAtStalk_baseChange ..
        _ = k := N.rankAtStalk_eq _ }
```

File: Mathlib/RingTheory/Grassmannian.lean [hunk 4]
```diff
@@ -80,6 +84,151 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+
+variable (R M k)
+
+/-- The Grassmannian functor sends an `R`-algebra `A` to `G(k, A ⊗[R] M; A)`. -/
+def functor : CommAlgCat.{w, u} R ⥤ Type (max v w) where
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Grassmannian.lean:188]: I think things would be more readable if instead you proved map_id, map_comp in an unbundled form first, and only bundled
things at the last moment, deducing the bundled lemmas from the unbundled ones.

in `map_comp` below, I can remove almost all the `letI : Algebra _ _` and `letI : IsScalarTower R _ _` via 
`algebraize [f.hom.toRingHom, g.hom.toRingHom, (f ≫ g).hom.toRingHom]`

**Review by robin-carlier — COMMENTED** [review]
As a general comment, the code has the classic AI-generated code issue that there are way too many `lets/have` that are making things unnecessarily long.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 5]
```diff
@@ -80,6 +84,93 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
 @[ext] lemma ext {N₁ N₂ : G(k, M; R)} (h : (N₁ : Submodule R M) = N₂) : N₁ = N₂ := by
   cases N₁; cases N₂; congr 1
 
+section Functor
+
+open CategoryTheory TensorProduct AlgebraTensorModule
+
+variable (A : Type w) [CommRing A] [Algebra R A]
+variable (B : Type w) [CommRing B] [Algebra R B]
+variable [Algebra A B] [IsScalarTower R A B]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean]: Why are you not assuming an `R`-algebra hom `A -> B`?

Comment (mpenciak) [reply Mathlib/RingTheory/Grassmannian.lean]: I switched the assumptions from `[Algebra A B] [IsScalarTower R A B]` to an explicity algebra hom `f : A -> B`. It made some of the proofs further down the file simpler, but the statement of `baseChange_mkQ_surjective` is a little more verbose because we need those instances in order for the type of the theorem to typecheck.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 6]
```diff
@@ -80,6 +84,106 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+variable (k)
+
+theorem map_id (A : CommAlgCat R) : map (.id R A) = 𝟙 G(k, A ⊗[R] M; A)  := by
+  ext1 N
+  rw [types_id_apply]
+  ext x
+  simp only [map, LinearMap.mem_ker, LinearMap.coe_comp,
+              LinearEquiv.coe_coe, Function.comp_apply]
+  erw [cancelBaseChange_self_eq_lid, TensorProduct.lid_symm_apply]
+  change 1 ⊗ₜ[↑A] N.mkQ x = 0 ↔ x ∈ N.toSubmodule
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean]: Please avoid `erw` and `change`, but instead (add and) use the correct API lemmas.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 7]
```diff
@@ -80,6 +84,106 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+variable {A : Type w} [CommRing A] [Algebra R A]
+variable {B : Type w} [CommRing B] [Algebra R B]
+variable (f : A →ₐ[R] B)
+
+lemma baseChange_mkQ_surjective (N : G(k, (A ⊗[R] M); A)) :
+    letI : Algebra A B := f.toAlgebra
+    letI : IsScalarTower R A B :=
+      IsScalarTower.of_algebraMap_eq' <| IsScalarTower.algebraMap_eq R A B
+    Function.Surjective (N.toSubmodule.mkQ.baseChange B ∘ₗ
+      (cancelBaseChange R A B B M).symm.toLinearMap) := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean]: It seems to me that this lemma is general and has nothing to do with Grassmannians. Could you please move it to an appropriate place? This specific lemma should also take `[Algebra A B] [IsScalarTower R A B]` as assumptions.

**Comment by riccardobrasca** [comment]
@smorel394 IIRC you worked on something similar. Can you have a quick look? Thanks!

**Comment by mpenciak** [comment]
> @smorel394 IIRC you worked on something similar. Can you have a quick look? Thanks!

Are there any updates on this? It'd be nice to move this PR along because I'm cleaning up some more work constructing the chart subfunctor (the next TODO item in the file)

**Comment by smorel394** [comment]
I'm sorry, but I am very busy at the moment and don't have time to give feedback within the timeframe that you seem to be aiming for.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 8]
```diff
@@ -80,6 +85,86 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+        cancelBaseChange_symm_tmul, LinearEquiv.baseChange_tmul,
+        cancelBaseChange_tmul,
+        LinearMap.quotKerEquivOfSurjective_apply_mk]
+    | add x y hx hy =>
+      simp only [LinearMap.coe_comp, LinearEquiv.coe_coe,
+        Function.comp_apply, map_add] at *
+      rw [hx, hy]
+  rw [show (map (g.comp f) N).toSubmodule = fAC.ker from rfl,
+    show (map g (map f N)).toSubmodule = fBC.ker from rfl,
+    show fAC = e.toLinearMap.comp fBC from hcomp.symm, LinearEquiv.ker_comp]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean]: Please don't use `show ... from ..` in `rw`, this is usually hiding some def-eq abuse. Instead rewrite with a lemma or state an auxiliary equality as a `have` first.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 9]
```diff
@@ -80,6 +85,86 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+  ext1
+  exact (ker_baseChange_comp_cancelBaseChange_symm N.mkQ).trans N.toSubmodule.ker_mkQ
+
+variable {C : Type w} [CommRing C] [Algebra R C]
+variable (g : B →ₐ[R] C)
+
+theorem map_comp (N : G(k, A ⊗[R] M; A)) :
+    map (g.comp f) N = map g (map f N) := by
+  algebraize [f.toRingHom, g.toRingHom, (g.comp f).toRingHom]
+  letI : IsScalarTower A B C := by apply IsScalarTower.of_algebraMap_eq'; rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean]:
```suggestion
  let : IsScalarTower A B C := by apply IsScalarTower.of_algebraMap_eq'; rfl
```
Please don't use the `haveI` / `letI` variants in proofs.

File: Mathlib/LinearAlgebra/TensorProduct/Quotient.lean [hunk 10]
```diff
@@ -327,3 +328,21 @@ lemma ker_mapOfCompatibleSMul :
...
+open TensorProduct AlgebraTensorModule
+
+variable {R A B M : Type*}
+variable [CommRing R] [CommRing A] [Algebra R A]
+variable [CommRing B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+variable [AddCommGroup M] [Module R M]
+
+lemma baseChange_mkQ_surjective (N : Submodule A (A ⊗[R] M)) :
+    Function.Surjective (N.mkQ.baseChange B ∘ₗ
+      (cancelBaseChange R A B B M).symm.toLinearMap) := by
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/TensorProduct/Quotient.lean]: This has nothing to do with `Submodule.mkQ`: This is just the fact that base change is right exact, so please state it as `LinearMap.baseChange` of a surjective linear map is still surjective.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 11]
```diff
@@ -80,6 +85,86 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+    | add x y hx hy =>
+      simp only [LinearMap.coe_comp, LinearEquiv.coe_coe,
+        Function.comp_apply, map_add] at *
+      rw [hx, hy]
+  rw [show (map (g.comp f) N).toSubmodule = fAC.ker from rfl,
+    show (map g (map f N)).toSubmodule = fBC.ker from rfl,
+    show fAC = e.toLinearMap.comp fBC from hcomp.symm, LinearEquiv.ker_comp]
+
+/-- The Grassmannian functor sends an `R`-algebra `A` to `G(k, A ⊗[R] M; A)`. -/
+def functor : CommAlgCat.{w, u} R ⥤ Type (max v w) where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Grassmannian.lean:188]:
```suggestion
/-- The Grassmannian functor sends an `R`-algebra `A` to `G(k, A ⊗[R] M; A)`. -/
@[simps]
def functor : CommAlgCat.{w, u} R ⥤ Type (max v w) where
```

File: Mathlib/RingTheory/Grassmannian.lean (hunk 8 above)
Comment (mpenciak) [reply Mathlib/RingTheory/Grassmannian.lean]: I think I've handled this... But I'm not sure if the solution makes sense. I separated out a `map_toSubmodule` lemma (which is the core result that makes) and used it to prove the `have` statements needed in the last step.

The issue is that in the lemma as stated, we only get that `map f N` equals the RHS with the particular `Algebra A B` instance induced by `f` and the particular `IsScalarTower R A B` instance from the `Algebra A B` instance. This means I think we need `letI`s in the instance, which was an issue before I believe?

Anyway, I'm not totally sure if this is the right way to proceed so let me know your thoughts.

**Comment by mpenciak** [comment]
I think I've addressed the last round of comments, so it should be good for another review.

The recent changes to `ConcreteCategory` means the proofs of `map_id` and `map_comp` in `functor` are slightly more complicated.

File: Mathlib/RingTheory/Grassmannian.lean [hunk 12]
```diff
@@ -80,6 +84,100 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+variable (f : A →ₐ[R] B)
+
+/-- The map on Grassmannians induced by base change along an algebra map `A → B`.
+Given a submodule `N` of `A ⊗[R] M`, the image is the kernel of the composition
+B ⊗[R] M ≃ B ⊗[A] (A ⊗[R] M) → B ⊗[A] ((A ⊗[R] M) ⧸ N)`. -/
+def map (N : G(k, (A ⊗[R] M); A)) : G(k, (B ⊗[R] M); B) :=
+  letI : Algebra A B := f.toAlgebra
+  letI : IsScalarTower R A B := IsScalarTower.of_algebraMap_eq' <| IsScalarTower.algebraMap_eq R A B
+  letI f' := N.toSubmodule.mkQ.baseChange B ∘ₗ (cancelBaseChange R A B B M).symm.toLinearMap
+  haveI equiv := f'.quotKerEquivOfSurjective <|
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Grassmannian.lean]: Is it possible to extract this as a separate lemma?

File: Mathlib/RingTheory/Grassmannian.lean [hunk 13]
```diff
@@ -80,6 +84,100 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+    letI : IsScalarTower R A B := IsScalarTower.of_algebraMap_eq' <|
+      IsScalarTower.algebraMap_eq R A B
+    (map f N).toSubmodule = LinearMap.ker
+      (N.toSubmodule.mkQ.baseChange B ∘ₗ (cancelBaseChange R A B B M).symm.toLinearMap) := by rfl
+
+variable (k)
+
+@[simp] theorem map_id (A : CommAlgCat R) (N : G(k, A ⊗[R] M; A)) :
+    map (.id R A) N = N := by
+  ext1
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Grassmannian.lean]:
```suggestion
  ext : 1
```

File: Mathlib/RingTheory/Grassmannian.lean [hunk 14]
```diff
@@ -80,6 +84,100 @@ instance : CoeOut G(k, M; R) (Submodule R M) :=
...
+  exact (ker_baseChange_comp_cancelBaseChange_symm N.mkQ).trans N.toSubmodule.ker_mkQ
+
+variable {C : Type w} [CommRing C] [Algebra R C]
+variable (g : B →ₐ[R] C)
+
+theorem map_comp (N : G(k, A ⊗[R] M; A)) :
+    map (g.comp f) N = map g (map f N) := by
+  algebraize [f.toRingHom, g.toRingHom, (g.comp f).toRingHom]
+  let : IsScalarTower A B C := by apply IsScalarTower.of_algebraMap_eq'; rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Grassmannian.lean:158]: Can you check if the `algebraize` tactic can help here?

**Review by riccardobrasca — COMMENTED** [review]
Is there a reason why you a writing `map` taking the actual ring hom instead of an algebra instance? It seems to pollute the definitions a bit (I am not against it, just wondering). Anyway LGTM, thanks!

File: Mathlib/RingTheory/Grassmannian.lean (hunk 13 above)
Comment (mpenciak) [reply Mathlib/RingTheory/Grassmannian.lean]: Should I switch to `ext : 1` in the other places I use `ext1` as well? (in the proof of `map_id` and `map_comp` for `functor`)

File: Mathlib/RingTheory/Grassmannian.lean (hunk 14 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Grassmannian.lean:158]: Yes please. In practice it's the same thing but `ext : 1` is much clearer (since the `1` is clearly an argument rather than part of the name). Thanks!

Comment (mpenciak) [reply Mathlib/RingTheory/Grassmannian.lean:158]: It doesn't unfortunately. I'm not totally sure why, but it might be fun to dig into the implementation and see if I can get it to work at some point.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Grassmannian.lean:158]: OK, can you just add a short note about it?

File: Mathlib/RingTheory/Grassmannian.lean (hunk 12 above)
Comment (mpenciak) [reply Mathlib/RingTheory/Grassmannian.lean]: I extracted out the auxiliary defs `baseChangeMkQ` and `baseChangeMkQEquiv`, and it ended up making the proofs a lot cleaner.

**Comment by mpenciak** [comment]
> Is there a reason why you a writing `map` taking the actual ring hom instead of an algebra instance? It seems to pollute the definitions a bit (I am not against it, just wondering). Anyway LGTM, thanks!

It was implemented like that at first, but it was suggested to be changed in an early round of reviews.

I implemented the suggestions. I think the PR is good to look at again!

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
